2200-08-13 06:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Family meeting held; goals of care clarified
   -- No escalation of care
   -- No HD/CVVH
 MULTI LUMEN - START [**2200-8-12**] 12:00 PM
   Inserted on [**2200-7-23**]
 INVASIVE VENTILATION - START [**2200-8-12**] 12:00 PM
   intubated on [**7-15**]
 FEVER - 101.9
F - [**2200-8-13**] 04:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2200-8-12**] 08:38 PM
   Meropenem - [**2200-8-13**] 03:29 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-8-12**] 09:03 PM
   Heparin Sodium (Prophylaxis) - [**2200-8-13**] 03:50 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Flowsheet Data as of  [**2200-8-13**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.8
C (101.9
   HR: 96 (86 - 99) bpm
   BP: 103/25(42) {103/25(42) - 129/63(91)} mmHg
   RR: 24 (14 - 25) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 345 kg (admission): 345 kg
   Height: 70 Inch
    CVP: 25 (19 - 237)mmHg
   Total In:
                                                                  4,208 mL
                                                                  1,059 mL
   PO:
   TF:
   IVF:
                                                                  2,141 mL
                                                                  1,059 mL
   Blood products:
   Total out:
                                                                    740 mL
                                                                     39 mL
   Urine:
                                                                    130 mL
                                                                     39 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                  3,468 mL
                                                                  1,020 mL
   Respiratory support
   Ventilator mode: PRVC/AC
   Vt (Set): 560 (560 - 560) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 23 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 51 cmH2O
   Plateau: 43 cmH2O
   SpO2: 89%
   ABG: 7.20/61/86.[**Numeric Identifier 96**]/20/-4
   Ve: 13.1 L/min
   PaO2 / FiO2: 124
   Physical Examination
   General: intubated, sedated
   HEENT: left ear with skin necrosis, surrounding erythema to left
   mastoid
   Cardiac: distant heart sounds, no murmurs
   Lungs: CTAB, distant
   Abdomen: obese, soft
   Extremities: worsening BL LE edema
   Labs / Radiology
   CXR:
   314 K/uL
   8.7 g/dL
   89 mg/dL
   4.5 mg/dL
   20 mEq/L
   4.5 mEq/L
   77 mg/dL
   93 mEq/L
   132 mEq/L
   25.9 %
   15.6 K/uL
        [image002.jpg]
                             [**2200-8-10**]  04:14 AM
                             [**2200-8-10**]  05:31 AM
                             [**2200-8-10**]  07:46 AM
                             [**2200-8-10**]  09:26 AM
                             [**2200-8-10**]  10:58 AM
                             [**2200-8-11**]  03:38 AM
                             [**2200-8-11**]  01:22 PM
                             [**2200-8-12**]  04:11 AM
                             [**2200-8-12**]  08:00 PM
                             [**2200-8-13**]  03:51 AM
   WBC
   17.2
   18.6
   17.7
   15.6
   Hct
   26.0
   28.1
   26.5
   28
   25.9
   Plt
   355
   366
   298
   314
   Cr
   2.2
   3.0
   3.8
   4.5
   TCO2
   31
   31
   31
   32
   27
   25
   Glucose
   149
   127
   98
   89
   Other labs: PT / PTT / INR:14.6/35.9/1.3, CK / CKMB /
   Troponin-T:3171//, ALT / AST:24/34, Alk Phos / T Bili:56/0.8, Amylase /
   Lipase:58/85, Differential-Neuts:67.0 %, Band:13.0 %, Lymph:2.0 %,
   Mono:4.0 %, Eos:9.0 %, Fibrinogen:988 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.7 g/dL, LDH:532 IU/L, Ca++:7.9 mg/dL, Mg++:2.7 mg/dL,
   PO4:12.3 mg/dL
   .
   MICROBIOLOGY:
   A line tip: NG
   Sputum [**8-9**]: NG
   Blood [**8-9**]: NG
   Assessment and Plan
   28M with hypercarbic/hypoxic respiratory failure requiring intubation
   found to have RV strain thought to be due to a possible PE.  Hospital
   course compliated by RUE compartment syndrome, ARF, right hemithorax
   s/p chest tube placement.  Overall grim prognosis, currently with no
   escalation of care
   .
   #. ARF: Dialysis not indicated
   .
   #. Fever/Leukocytosis: Multiple possible sources including VAP,
   superinfected hemothorax, skin breakdown, proteus positive myonecrosis,
   mastoiditis, drug fever ETC.
   -No escalation of care, continue meropenam/cipro,
   -ID recs/culture data
   .
   #. Compartment Syndrome/myonecrosis: s/p multiple fasciotomies and vac
   dressing placement by plastics.  Now with proteus growing on wound
   swab.
   - Plastics following, will continue debridement per their recs
   -current abx covers proteus
   - keep heparin off
   .
   # Hypercarbic respiratory failure: No escalation of care, continue
   current vent settings, no A line for adjustments, no ABG
   - albuterol/ipratropium nebs
   - Daily CXR's
   .
   #. hemothorax: s/p chest tube, no significant change in size on CXRs,
   now concerned for superimposed infection?
   -chest tube in place
   .
   # sedation: Continue methadone, diazepam, can give fentanyl prn for
   comfort
   ICU Care
   Nutrition: OG tube in place, continue tube feeds
   Glycemic Control:  Not needed
   Lines: RIJ [**7-23**]
   Multi Lumen - [**2200-8-12**] 12:00 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer:  Famotidine
   VAP:  Mouth care, HOB elevation, daily wake up
   Comments:
   Communication:  Comments: Sister/HCP
   [**Name (NI) 66**] status: DNR (do not resuscitate), no escalation of care
   Disposition: ICU

2200-08-14 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.6
F - [**2200-8-14**] 04:00 AM, no cultures drawn
   -ID has signed off
   -No AM labs except for vancomycin level
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2200-8-13**] 10:00 PM
   Meropenem - [**2200-8-14**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl - 350 mcg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2200-8-13**] 05:26 PM
   Pantoprazole (Protonix) - [**2200-8-13**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2200-8-14**] 04:00 AM
   Diazepam (Valium) - [**2200-8-14**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-8-14**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 39.2
C (102.6
   HR: 102 (96 - 105) bpm
   BP: 110/53(66) {92/41(54) - 113/76(80)} mmHg
   RR: 24 (13 - 24) insp/min
   SpO2: 85%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 345 kg (admission): 345 kg
   Height: 70 Inch
    CVP: 19 (15 - 33)mmHg
   Total In:
                                                                  3,708 mL
                                                                    745 mL
   PO:
   TF:
   IVF:
                                                                  3,558 mL
                                                                    685 mL
   Blood products:
   Total out:
                                                                    396 mL
                                                                    335 mL
   Urine:
                                                                     84 mL
                                                                     27 mL
   NG:
                                                                    300 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  3,312 mL
                                                                    410 mL
   Respiratory support
   Ventilator mode: PRVC/AC
   Vt (Set): 560 (560 - 560) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 23 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 50 cmH2O
   Plateau: 45 cmH2O
   SpO2: 85%
   ABG: ////
   Ve: 11.3 L/min
   Physical Examination
   Gen: intubated, sedated
   HEENT: MMM
   CV: Distant heart sounds, no murmurs
   Lungs: Soft rhonchi bilaterally
   Abdomen: non distended
   Labs / Radiology
   314 K/uL
   8.7 g/dL
   89 mg/dL
   4.5 mg/dL
   20 mEq/L
   4.5 mEq/L
   77 mg/dL
   93 mEq/L
   132 mEq/L
   25.9 %
   15.6 K/uL
        [image002.jpg]
                             [**2200-8-10**]  04:14 AM
                             [**2200-8-10**]  05:31 AM
                             [**2200-8-10**]  07:46 AM
                             [**2200-8-10**]  09:26 AM
                             [**2200-8-10**]  10:58 AM
                             [**2200-8-11**]  03:38 AM
                             [**2200-8-11**]  01:22 PM
                             [**2200-8-12**]  04:11 AM
                             [**2200-8-12**]  08:00 PM
                             [**2200-8-13**]  03:51 AM
   WBC
   17.2
   18.6
   17.7
   15.6
   Hct
   26.0
   28.1
   26.5
   28
   25.9
   Plt
   355
   366
   298
   314
   Cr
   2.2
   3.0
   3.8
   4.5
   TCO2
   31
   31
   31
   32
   27
   25
   Glucose
   149
   127
   98
   89
   Other labs: PT / PTT / INR:14.6/35.9/1.3, CK / CKMB /
   Troponin-T:3171//, ALT / AST:24/34, Alk Phos / T Bili:56/0.8, Amylase /
   Lipase:58/85, Differential-Neuts:67.0 %, Band:13.0 %, Lymph:2.0 %,
   Mono:4.0 %, Eos:9.0 %, Fibrinogen:988 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.7 g/dL, LDH:532 IU/L, Ca++:7.9 mg/dL, Mg++:2.7 mg/dL,
   PO4:12.3 mg/dL
   Assessment and Plan
   28M with hypercarbic/hypoxic respiratory failure requiring intubation
   found to have RV strain thought to be due to a possible PE.  Hospital
   course compliated by RUE compartment syndrome, ARF, right hemithorax
   s/p chest tube placement.  Overall grim prognosis, currently with no
   escalation of care
   #. Goals of care: No escalation of care. Continue treatment as current
   although with clear understanding of very poor prognosis and lack of
   response.
   .
   #. ARF: Per goals of care, dialysis will not be pursued
   n        Monitor K/Cr daily
   n        Would treat hyperkalemia if present
   .
   #. Hypotension: Refractory, still requiring levophed and vasopressin
   n        Levophed  up to 0.05 mcg
   n        Would continue Vasopressin at 2.4
   #. Fever/Leukocytosis: Multiple possible sources including VAP,
   superinfected hemothorax, skin breakdown, proteus positive myonecrosis,
   mastoiditis, drug fever ETC.
   -- meropenam/cipro, vancomycin
   -- Dose Vanc by levels
   .
   #. Compartment Syndrome/myonecrosis: Stable, no interventions
   anticipated
   .
   # Hypercarbic respiratory failure: Persistently vent dependent.
   -- continue current vent settings, FIo2 at 100% now
   -- PEEP at 23 now, would not increase further given hypotension
   - albuterol/ipratropium nebs
   #. hemothorax: chest tube in place
   # sedation: Continue methadone, diazepam, can give fentanyl prn for
   comfort.
   n        Would try to simplify regimen with fentanyl and versed only,
   plus PRN
   ICU Care
   Nutrition: Per nutrition recs, restart tube feeds today
   Glycemic Control:  Insulin scale
   Lines:
   Multi Lumen - [**2200-8-12**] 12:00 PM
   Prophylaxis:
   DVT: Heparin 5,000 TID
   Stress ulcer: PPI
   VAP:  Vent bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2200-08-15 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Spiked fever of  102.6
F on [**8-14**] 12:00 PM;  no cultures obtained
   - Spoke to pharmacy regarding methadone taper: taper every 2 days:
   40mg Q6
 20mg Q8
 20mg [**Hospital1 **]
 20mg QD
 then stop all together
   - Propafol stopped; now on Fentanyl/Versed
   - Valium weaned down from 10mg IV Q6
 5mg IV Q6
   - Potassium and Cr to be checked daily; no other labs
   - Received calcium gluconate and insulin IV for hyperkalemia (6.8) this
   morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2200-8-14**] 10:00 PM
   Meropenem - [**2200-8-15**] 04:00 AM
   Infusions:
   Fentanyl - 350 mcg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-8-14**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2200-8-15**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-8-15**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.3
C (101
   HR: 103 (102 - 108) bpm
   BP: 100/30(47) {93/24(41) - 118/71(74)} mmHg
   RR: 24 (13 - 28) insp/min
   SpO2: 87%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 345 kg (admission): 345 kg
   Height: 70 Inch
    CVP: 23 (12 - 23)mmHg
   Total In:
                                                                  2,795 mL
                                                                    873 mL
   PO:
   TF:
                                                                     60 mL
                                                                     98 mL
   IVF:
                                                                  2,615 mL
                                                                    775 mL
   Blood products:
   Total out:
                                                                    651 mL
                                                                     10 mL
   Urine:
                                                                     43 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                  2,144 mL
                                                                    865 mL
   Respiratory support
   Ventilator mode: PRVC/AC
   Vt (Set): 560 (560 - 560) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 23 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 55 cmH2O
   Plateau: 40 cmH2O
   SpO2: 87%
   ABG: ////
   Ve: 13.3 L/min
   Physical Examination
   Gen: intubated, sedated
   HEENT: MMM
   CV: Distant heart sounds, no murmurs
   Lungs: Soft rhonchi bilaterally
   Abdomen: non distended
   Labs / Radiology
   314 K/uL
   8.7 g/dL
   89 mg/dL
   6.1 mg/dL
   20 mEq/L
   6.8 mEq/L
   77 mg/dL
   93 mEq/L
   132 mEq/L
   25.9 %
   15.6 K/uL
         [image002.jpg]
                             [**2200-8-10**]  05:31 AM
                             [**2200-8-10**]  07:46 AM
                             [**2200-8-10**]  09:26 AM
                             [**2200-8-10**]  10:58 AM
                             [**2200-8-11**]  03:38 AM
                             [**2200-8-11**]  01:22 PM
                             [**2200-8-12**]  04:11 AM
                             [**2200-8-12**]  08:00 PM
                             [**2200-8-13**]  03:51 AM
                             [**2200-8-15**]  04:34 AM
   WBC
   18.6
   17.7
   15.6
   Hct
   28.1
   26.5
   28
   25.9
   Plt
   366
   298
   314
   Cr
   3.0
   3.8
   4.5
   6.1
   TCO2
   31
   31
   31
   32
   27
   25
   Glucose
   127
   98
   89
   Other labs: PT / PTT / INR:14.6/35.9/1.3, CK / CKMB /
   Troponin-T:3171//, ALT / AST:24/34, Alk Phos / T Bili:56/0.8, Amylase /
   Lipase:58/85, Differential-Neuts:67.0 %, Band:13.0 %, Lymph:2.0 %,
   Mono:4.0 %, Eos:9.0 %, Fibrinogen:988 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.7 g/dL, LDH:532 IU/L, Ca++:7.9 mg/dL, Mg++:2.7 mg/dL,
   PO4:12.3 mg/dL
   Imaging: No cxray
   Microbiology: [**8-9**]: Sputum culture: Pseudomonas
   [**8-10**] Catheter tip: No growth
   Assessment and Plan
   Mr. [**Known lastname 4048**] is a 28M with hypercarbic/hypoxic respiratory failure
   requiring intubation found to have RV strain thought to be due to a
   possible PE.  Hospital course compliated by RUE compartment syndrome,
   ARF, right hemithorax s/p chest tube placement.  Overall grim
   prognosis, currently with no escalation of care.
   # Sedation: well controlled at this time;
   -- Wean methadone per pharmacy recs
   -- Continue Versed / Fentanyl for sedation
   # ARF: Per goals of care, dialysis will not be pursued
   -          Monitor K/Cr daily
   -          Kayexalate for K of 6.8, would not repeat K until morning
   -
   #. Hypotension: Refractory, still requiring levophed and vasopressin
   -          Levophed  up to 0.05 mcg
   -          Would continue Vasopressin at 2.4
   #. Fever/Leukocytosis: Multiple possible sources including VAP,
   superinfected hemothorax, skin breakdown, proteus positive myonecrosis,
   mastoiditis, drug fever ETC.
   -- meropenam/cipro, vancomycin
   -- Dose Vanc by levels
   #. Compartment Syndrome/myonecrosis: Stable, no interventions
   anticipated
   # Hypercarbic respiratory failure: Persistently vent dependent, now
   with decreasing O2 saturation
   -- continue current vent settings, FIo2 at 100% now
   -- PEEP at 23 now, would not increase further given hypotension
   -- albuterol/ipratropium nebs
   #. Hemothorax: chest tube in place
   ICU Care
   Nutrition: Hold tube feeds for now given high residuals
   Nutren Renal (Full) - [**2200-8-14**] 08:00 PM 15 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2200-8-12**] 12:00 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: PPI
   VAP:  Bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: